US06331541B1
To a stirred solution of 2-benzyloxycarbonylamino-1-phenyl-3-butene (1.43 g, 5.08 mmoles) in 20 mL of CH2Cl2 was added 3-chloroperoxybenzoic acid (2.19 g, 60%, 7.62 mmoles) in several portions, and the mixture was stirred at room temperature for 30 hrs. After addition of EtOAc (60 mL), the mixture was washed with saturated NaHCO3 and brine, and the organic layer was dried over Na2SO4. Evaporation of the solvent afforded an oily residue. The crude product was purified by column chromatography on silica gel with elution by 2:8 EtOAc-hexane to give pure 2-benzyloxycarbonylamino-1-phenyl-3,4-epoxy-butane.

reactant | 2-benzyloxycarbonylamino-1-phenyl-3-butene | 5.08 mmoles, 1.43 g | C(C1=CC=CC=C1)OC(=O)NC(CC1=CC=CC=C1)C=C | C18H19NO2
reactant | 3-chloroperoxybenzoic acid | 7.62 mmoles, 2.19 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | EtOAc | 60 mL | CCOC(=O)C | C4H8O2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 2-benzyloxycarbonylamino-1-phenyl-3,4-epoxy-butane | C(C1=CC=CC=C1)OC(=O)NC(CC1=CC=CC=C1)C1CO1 | C18H19NO3
